* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE05\LTspice\TBJ01CAop.asc
Rb cc B {Rb}
Rc cc C {Rc}
Vcc cc 0 {Vcc}
Q1 C B 0 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.param Vcc=30 Rb=820k Rc=680
.op
.model TBJ NPN(IS=10F BF=350 VAF=100)
.backanno
.end
